US04446078
Into a 250 ml stainless steel reactor equipped with a magnetic stirrer system, 100 ml of anhydrous HF, 23.6 g (0.3 mole) of acetyl chloride, and 32.4 g (0.2 mole) of trifluoromethoxybenzene were introduced at around 0° C. The reactor was closed and gaseous boron trifluoride (BF3) introduced until a constant pressure of 6 bars was achieved. The reaction was then allowed to proceed with stirring at ambient temperature for 3 hours. Following reaction, the reactor was decompressed to atmospheric pressure, then the reaction mixture poured over 200 g of crushed ice. The resultant heterogeneous mixture was extracted three times with 200 ml of methylene chloride. The organic phases were washed three times with 200 ml of water, once with 200 ml of 3% aqueous potassium hydroxide solution, and twice with 200 ml of water. The organic phase was dried over magnesium sulfate and the solvent eliminated by distillation under reduced pressure. 37.2 g (yield: 91%) of p-trifluoromethoxyacetophenone having a purity of 96.3% was recovered.

reactant | acetyl chloride | 0.3 mole, 23.6 g | C(C)(=O)Cl | C2H3ClO
reactant | trifluoromethoxybenzene | 0.2 mole, 32.4 g | FC(OC1=CC=CC=C1)(F)F | C7H5F3O
reactant | boron trifluoride | B(F)(F)F | BF3
product | p-trifluoromethoxyacetophenone | 37.2 g, yield: 91% | FC(OC1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O2
